US09108926B2
3-[(Cyclopropylsulfonyl)methyl]aniline
was prepared under similar conditions as described in the preparation of Intermediate 1.3. using 1-[(cyclopropylsulfonyl)methyl]-3-nitrobenzene and titanium(III)chloride solution (about 15%) in about 10% hydrochloric acid (Merck Schuchardt OHG). The batch was purified by chromatography (DCM/EtOH 95:5).

reactant | 1-[(cyclopropylsulfonyl)methyl]-3-nitrobenzene | C1(CC1)S(=O)(=O)CC1=CC(=CC=C1)[N+](=O)[O-] | C10H11NO4S
solvent | hydrochloric acid | Cl | ClH
catalyst | titanium(III)chloride | [Cl-].[Ti+3].[Cl-].[Cl-]
product | 3-[(Cyclopropylsulfonyl)methyl]aniline | C1(CC1)S(=O)(=O)CC=1C=C(N)C=CC1 | C10H13NO2S
